US08669234B2
(1-{2-[5-(4-Bromo-naphthalen-1-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (0.115 g), [2-Methyl-1-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (0.111 g), and NaHCO3 (0.0623 g) were dissolved in a mixture of 1,2-dimethoxyethane (3 mL) and water (1 mL). The solution was degassed with nitrogen, and Pd(PPh3)4 (0.0114 g) was added. The reaction mixture was stirred at 85° C. for 16 hours and evaporated under vacuum. Solid was dissolved in ethyl acetate (10 mL) and extracted twice with water (10 mL) and once with brine (10 mL). Solution was evaporated, dissolved in DMF, purified by reverse phase HPLC (5-70% acetonitrile:water), and lyophilized, giving [1-(2-{5-[4-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-1-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (0.037 g, 21%) as a white solid: 1H-NMR: 300 MHz, (CHCl3-d1) δ: 8.9 (m, 1H), 7.6 (m, 2H), 7.4 (m, 5H), 7.0 (m, 2H), 6.8 (m, 2H), 5.8 (m, 2H), 5.3 (m, 2H), 4.3 (m, 2H), 4.0 (m, 4H), 3.6 (s, 6H), 2.4 (m, 6H), 2.0 (m, 6H), 0.8 (m, 12H); MS (ESI) m/z 789 [M+H]+.

reactant | (1-{2-[5-(4-Bromo-naphthalen-1-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.115 g | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C2=CC=CC=C12)Br)=O | C24H27BrN4O3
reactant | [2-Methyl-1-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.111 g | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | NaHCO3 | 0.0623 g | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
product | [1-(2-{5-[4-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-1-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 0.037 g, 21% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C2=CC=CC=C12)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C44H52N8O6
